US04032639
2,3,4,4a-Tetrahydro-1H-Pyrazino[ 1,2-a]Quinoxalin-5(6H)-One
A mixture of 3.0 g. of 3carbobenzoxy-2,3,4,4 a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, 2 g. of hydrogen chloride, 3 g. of 10% palladium on carbon and 200 ml. of ethanol is hydrogenated on a Parr apparatus for 18 hours at 46 p.s.i. hydrogen pressure. The catalyst is filtered and the filtrate is concentrated. The residue is recrystallized from ethanol to give 0.55 g. of the product as the hydrogen chloride salt, m.p. 288°-290° .

reactant | 3carbobenzoxy-2,3,4,4 a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | C(=O)(OCC1=CC=CC=C1)N1CC2N(C3=CC=CC=C3NC2=O)CC1 | C19H19N3O3
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2,3,4,4a-Tetrahydro-1H-Pyrazino[ 1,2-a]Quinoxalin-5(6H)-One | C1CNCC2N1C1=CC=CC=C1NC2=O | C11H13N3O
